US06953787B2
N-Trifluoroacetyl-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.506 g, 1.76 mmol) in dichloromethane (20 mL) was treated with BBr3 (4.1 mL of a 1.0M solution in CH2Cl2, 4.1 mmol) and stirred overnight while warming to 20 C. The excess BBr3 was quenched with water, and the resulting mixture was diluted with ether (200 mL), washed with Na2CO3 (100 mL) and brine (100 mL), dried with Na2SO4 and concentrated. Flash chromatography (15% EtOAc in hexane, silica) resulted in 0.460 g of a white solid foam. MS calculated for C13H14F3NO2+H: 274, observed: 274.

reactant | N-trifluoroacetyl-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.76 mmol, 0.506 g | FC(C(=O)N1CCC2=C(C(C1)C)C=CC(=C2)OC)(F)F | C14H16F3NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Trifluoroacetyl-7-hydroxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.460 g | FC(C(=O)N1CCC2=C(C(C1)C)C=CC(=C2)O)(F)F | C13H14F3NO2
